US07772223B2
Tert-Butyl (3S)-3-(3-Methoxyphenoxy)Pyrrolidine-1-Carboxylate
The title compound was prepared from (R)-(−)-N-boc-3-pyrrolidinol and 3-methoxyphenol, using the same method as that described for preparation 3, as a gum in 81% yield.

reactant | (R)-(−)-N-boc-3-pyrrolidinol | C(=O)(OC(C)(C)C)N1C[C@@H](CC1)O | C9H17NO3
reactant | 3-methoxyphenol | COC=1C=C(C=CC1)O | C7H8O2
product | Tert-Butyl (3S)-3-(3-Methoxyphenoxy)Pyrrolidine-1-Carboxylate | 81% yield | COC=1C=C(O[C@@H]2CN(CC2)C(=O)OC(C)(C)C)C=CC1 | C16H23NO4
